US03995056
A solution of 195.9 g of 2-hydroxy-3-methyl-4'-chlorobenzophenone [Huston et al., JACS, Vol. 73, (1951), p. 2483] in 1 liter of dimethylformamide was added with stirring to a suspension of 40.8 g of sodium hydride in 200 ml of dimethylformamide and the mixture was stirred for 1 hour with cooling in an ice-water bath. Then, a solution of 170.4 g of methyl iodide in 800 ml of dimethylformamide was added thereto over 40 minutes and the mixture was then stirred for 16 hours in the ice-water bath. The mixture was filtered to remove insolubles and the filtrate was treated with activated carbon, filtered and was evaporated to dryness under reduced pressure. The residue was taken up in 1 liter of ether and 200 ml of water and the aqueous phase was reextracted with ether. The combined ether phases were washed with water, dried over magnesium sulfate, treated with activated carbon, filtered and evaporated to dryness. The residue was chromatographed over silica and was eluted with methylene chloride to obtain 171 g of 2-methoxy-3-methyl-4'-chlorobenzophenone in the form of colorless crystals melting at 43° C.

reactant | 2-hydroxy-3-methyl-4'-chlorobenzophenone | 195.9 g | OC1=C(C(=O)C2=CC=C(C=C2)Cl)C=CC=C1C | C14H11ClO2
reactant | sodium hydride | 40.8 g | [H-].[Na+]
reactant | methyl iodide | 170.4 g | CI | CH3I
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
product | 2-methoxy-3-methyl-4'-chlorobenzophenone | 171 g | COC1=C(C(=O)C2=CC=C(C=C2)Cl)C=CC=C1C | C15H13ClO2
